US07307076B2
d) 5-benzyloxy-7-(2-ethoxy-2-hydroxy-acetyl)-3H-benzoxazol-2-one
20 g (71 mmol) 7-acetyl-5-benzyloxy-3H-benzoxazol-2-one and 8 g (72 mmol) selenium dioxide are stirred in the presence of activated charcoal in 100 mL dioxane and 3.1 mL water for 8 hours at reflux temperature. The solid is filtered off, the solvent is distilled off and the residue is combined with 50 mL ethanol. The mixture is refluxed for 15 minutes and then filtered through activated charcoal. The solid that precipitates on cooling is suction filtered for 3 hours and washed with ethanol and diethyl ether.

reactant | 7-acetyl-5-benzyloxy-3H-benzoxazol-2-one | 71 mmol, 20 g | C(C)(=O)C1=CC(=CC=2NC(OC21)=O)OCC2=CC=CC=C2 | C16H13NO4
reactant | selenium dioxide | 72 mmol, 8 g | [Se](=O)=O | O2Se
reactant | charcoal | C | CH4
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.1 mL | O | H2O
product | 5-benzyloxy-7-(2-ethoxy-2-hydroxy-acetyl)-3H-benzoxazol-2-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(O2)=O)C1)C(C(O)OCC)=O | C18H17NO6
